US06579879B2
To a solution of 5-chloro-3-methyl benzofuran-2-carboxaldehyde (5.55 mmol, 1.08 g) in ethanol (25 mL) was added portion-wise sodium borohydride (16.6 mmol, 630 mg). After one hour, the ethanol was evaporated and the residue was partitioned between CHCl3 and H2O. The CHCl3 layer was collected, filtered, dried, and evaporated to dryness to obtain 5-chloro-3-methyl benzofuran 2-methanol (88%, 965 mg); mp 112° C.-113° C.

reactant | 5-chloro-3-methyl benzofuran-2-carboxaldehyde | 5.55 mmol, 1.08 g | ClC=1C=CC2=C(C(=C(O2)C=O)C)C1 | C10H7ClO2
reactant | sodium borohydride | 16.6 mmol, 630 mg | [BH4-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-chloro-3-methyl benzofuran 2-methanol | 965 mg, 88% | ClC=1C=CC2=C(C(=C(O2)CO)C)C1 | C10H9ClO2
